US03966801
A solution of α-mercapto-γ-(2'-chloro-4-biphenylyl)butyric acid 0.02 moles in 25 ml. of pyridine is cooled in an ice bath. To this is added dropwise 2.1 ml. (0.022 moles) of ethyl chloroformate. The mixture is basified with 10% sodium bicarbonate solution. The alkaline mixture is worked with ether, then acidified with 10% hydrochloric acid, washed with ether, dried and filtered, the solvent is removed and the residue is triturated with hexane to obtain α-ethoxycarbonylthio-γ-(2'-chloro-4-biphenylyl)butyric acid.

reactant | α-mercapto-γ-(2'-chloro-4-biphenylyl)butyric acid | 0.02 moles | SC(C(=O)O)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H15ClO2S
reactant | ethyl chloroformate | 0.022 moles | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | α-ethoxycarbonylthio-γ-(2'-chloro-4-biphenylyl)butyric acid | C(C)OC(=O)SC(C(=O)O)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C19H19ClO4S
